US09403810B2
Step 5: tert-Butyl (2-cyclobutyl-1,5-dimethyl-3-oxo-2,3-dihydro-1H-pyrazol-4-yl)carbamate
A solution of (S)-methyl 2-((tert-butoxycarbonyl)amino)-3-oxobutanoate (400 mg, 1.730 mmol) in EtOAc (6.407 mL) was treated with 1-cyclobutyl-2-methylhydrazine (284 mg, 2.076 mmol) followed by sodium acetate (213 mg, 2.59 mmol). The suspension was stirred at room temperature for 30 minutes and at 80° C. for 4 hours. The resulting mixture was diluted with water (10 mL) and EtOAc was added. The layers were separated and aqueous extracted with EtOAc. The combined organic layers were washed with brine, dried over MgSO4, filtered and the solvent removed under reduced pressure. The residue was dissolved in EtOAc and iso-hexane was added. The resulting suspension was filtered and the solid rinsed with iso-hexane. The filtrate was concentrated under reduced pressure. The crude material was then adsorbed onto silica and purification by chromatography eluting with 50-100% EtOAc in iso-hexane afforded the title compound;

reactant | (S)-methyl 2-((tert-butoxycarbonyl)amino)-3-oxobutanoate | 1.730 mmol, 400 mg | C(C)(C)(C)OC(=O)N[C@H](C(=O)OC)C(C)=O | C10H17NO5
reactant | 1-cyclobutyl-2-methylhydrazine | 2.076 mmol, 284 mg | C1(CCC1)NNC | C5H12N2
reactant | sodium acetate | 2.59 mmol, 213 mg | C(C)(=O)[O-].[Na+]
solvent | EtOAc | 6.407 mL | CCOC(=O)C | C4H8O2
solvent | water | 10 mL | O | H2O
product | tert-Butyl (2-cyclobutyl-1,5-dimethyl-3-oxo-2,3-dihydro-1H-pyrazol-4-yl)carbamate | C1(CCC1)N1N(C(=C(C1=O)NC(OC(C)(C)C)=O)C)C | C14H23N3O3
